US08278482B2
(2-(Dichloroamino)-2-methylpropyl)dimethylsulfonium chloride
A solution of (2-amino-2-methylpropyl)dimethylsulfonium chloride hydrochloride (0.42 g, 2.0 mmol) in a mixture of methanol (10 mL) and water (10 mL) was cooled in an ice bath for 15 min. t-BuOCl (0.72 mL, 3.0 equiv, 6.1 mmol) was added in one portion via syringe to the colorless solution to give a deep yellow solution. The reaction mixture was stirred for 30 min at 0° C., then room temperature for 30 min. The methanol was removed under reduced pressure and the crude solid was purified via reverse phase chromatography on a Shimadzu Prep-LC utilizing water/methanol and 0.05% acetic acid as modifier. Fractions were collected monitoring UV absorbance at 215 nm. Fractions were pooled frozen and lyophilized to give a white solid, (0.26 g, 53.5%). 1H NMR (D2O, 400 MHz): δ 1.41 (s, 6H), 2.51 (s, 2H), 2.98 (s, 2 H). LRMS (ESI−) for C6H14Cl2NS+ (202.0); Found: 203, 204 (M+, M2H+).

reactant | (2-amino-2-methylpropyl)dimethylsulfonium chloride hydrochloride | 2.0 mmol, 0.42 g | Cl.[Cl-].NC(C[S+](C)C)(C)C
reactant | t-BuOCl | 6.1 mmol, 0.72 mL, 3.0 equiv | C(C)(C)(C)OCl | C4H9ClO
solvent | methanol | 10 mL | CO | CH4O
solvent | water | 10 mL | O | H2O
product | (2-(Dichloroamino)-2-methylpropyl)dimethylsulfonium chloride | [Cl-].ClN(C(C[S+](C)C)(C)C)Cl | InChI=1S/C6H14Cl2NS.ClH/c1-6(2,9(7)8)5-10(3)4;/h5H2,1-4H3;1H/q+1;/p-1
